US04859686
60% Perchloric acid (12 ml) was added to a stirred suspension of 1-acetyl-2-benzoyl hydrazine (31 g, 0.174 mole) in acetic anhydride (150 ml) over 45 minutes at 5°±5° C. The solution was brought to ambient temperature over 1 hour, then filtered. The precipitate was dissolved in water (200 ml), solid sodium carbonate added to pH 9 and the product extracted with ethyl acetate. The extract was washed with water, dried over MgSO4 and concentrated to an oil. Chromatography gave 2-methyl-5-phenyl-1,3,4-oxadiazole as a gum (9 g, 30%). This was reacted with ethanolamine following the procedure of Preparation (a) above to give the title compound as an oil (5 g).

reactant | Perchloric acid | 12 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | 1-acetyl-2-benzoyl hydrazine | 0.174 mole, 31 g | C(C)(=O)NNC(C1=CC=CC=C1)=O | C9H10N2O2
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-methyl-5-phenyl-1,3,4-oxadiazole | 9 g, 30% | CC=1OC(=NN1)C1=CC=CC=C1 | C9H8N2O
